US08314100B2
1-[(2,6,7-Trimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine (Compound 193)
Ethyl N-(2,6,7-trimethoxyquinoxalin-3-yl)carbamate and 1-(3,5-dimethylphenyl)piperazine were reacted by the same way with the example 190 to obtain the titled compound (yield, 56%). 1H NMR (300 MHz, CDCl3) δ 2.28 (s, 3H), 2.30 (s, 3H), 3.26 (m, 4H), 3.77 (m, 4H), 3.97 (s, 3H), 4.00 (s, 3H), 4.13 (s, 3H), 6.59 (s, 3H), 7.14 (s, 1H), 7.27 (s, 1H).

reactant | Ethyl N-(2,6,7-trimethoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC(=C(C=C2N=C1NC(OCC)=O)OC)OC | C14H17N3O5
reactant | 1-(3,5-dimethylphenyl)piperazine | CC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2
product | 1-[(2,6,7-Trimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine | 56% | COC1=NC2=CC(=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)C)C)OC)OC | C24H29N5O4
